US04871730
To a suspension of 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-mesyloxy-3-cephem-4-carboxylic acid (syn isomer) (1 g) in tetrahydrofuran (30 ml) was added bis(trimethylsilyl) urea (444 mg) at ambient temperature. The mixture was stirred at 30°-35° C. for 30 minutes to give a clear solution. On the other hand, to a solution of (Z)-2-acetylthiovinylbenzene (780 mg) in tetrahydrofuran (6 ml) was added sodium methoxide (240 mg) at 0° C. The mixture was stirred for 30 minutes. This solution was added to the above-mentioned clear solution. The mixture was stirred for 2 hours at -20°~-30° C. The mixture was poured into water (300 ml), and then the mixture was neutralized with sodium bicarbonate and washed with ethyl acetate. After stirring the aqueous layer was separated. The aqueous solution was adjusted to pH 2.5 with 1N hydrochloric acid. To this solution was added ethyl acetate (200 ml). The organic layer was separated, dried over magnesium sulfate and concentrated in vacuo to give a solid. The solid was triturated with diisopropyl ether to give 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[(Z)-2-phenylvinylthio]-3-cephem-4-carboxylic acid (syn isomer) (550 mg).

reactant | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-mesyloxy-3-cephem-4-carboxylic acid | 1 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)O)C1=O)=NOCC | C14H16N6O8S3
reactant | bis(trimethylsilyl) urea | 444 mg | C[Si](C)(C)NC(=O)N[Si](C)(C)C | C7H20N2OSi2
reactant | (Z)-2-acetylthiovinylbenzene | 780 mg | C(C)(=O)S\C=C/C1=CC=CC=C1 | C10H10OS
reactant | sodium methoxide | 240 mg | C[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-ethoxyiminoacetamido]-3-[(Z)-2-phenylvinylthio]-3-cephem-4-carboxylic acid | 550 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C2=CC=CC=C2)C(=O)O)C1=O)=NOCC | C21H20N6O5S3
